US07842688B2
a) tert-Butyl 3-{2-[2-(2-acetylaminoethyl)phenoxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
Analogously to Method G, 0.30 g of tert-butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[2-(toluene-4-sulphonyloxy)ethoxy]piperidine-1-carboxylate and 0.16 g of N-[2-(2-hydroxyphenyl)ethyl]acetamide are reacted. The title compound is obtained as a colourless oil. Rf=0.17 (3:1 EtOAc-heptane); Rt=5.65.

reactant | tert-butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[2-(toluene-4-sulphonyloxy)ethoxy]piperidine-1-carboxylate | 0.30 g | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCCOS(=O)(=O)C2=CC=C(C=C2)C)C=CC=C1 | C36H47NO9S
reactant | N-[2-(2-hydroxyphenyl)ethyl]acetamide | 0.16 g | OC1=C(C=CC=C1)CCNC(C)=O | C10H13NO2
product | tert-Butyl 3-{2-[2-(2-acetylaminoethyl)phenoxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | C(C)(=O)NCCC1=C(OCCOC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC=C1 | C39H52N2O8
